US04122183
5-Hydroxy-2-(N-butyl isobutyramido)-4-methyloxazole
4-methyl-2-(N-butyl isobutyramido)oxazole (15 g., 0.067 m.) in dry methylene chloride (100 c.c.) was cooled to 0° C during the addition of m-chloroperbenzoic acid (16 g., 0.023 m.) over 1 hour. The mixture was then stirred at room temperature for 40 hours. The precipitated m-chlorobenzoic acid was then filtered off and the filtrate evaporated to dryness. The residue was taken in ether (100 c.c.) and stirred with 5% aqueous sodium sulphite solution for 1 hour. The organic phase was then separated and washed successively with aqueous sodium carbonate (× 2) and water, and then dried and evaporated to give a brown oil, 13.9 g.

reactant | 4-methyl-2-(N-butyl isobutyramido)oxazole | 15 g | CC=1N=C(OC1)N(C(C(C)C)=O)CCCC | C12H20N2O2
reactant | m-chloroperbenzoic acid | 16 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 5-Hydroxy-2-(N-butyl isobutyramido)-4-methyloxazole | OC1=C(N=C(O1)N(C(C(C)C)=O)CCCC)C | C12H20N2O3
